US06821980B1
Trifluoroaceto-p-bromoanilide (4.02 g; 15 mmol), bis(pinacolato)diboron (5.0 g; 19.6 mmol), potassium acetate (4.41 g; 45 mmol) and 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) (PdCl2(dppf)) (730 mg; 0.95 mnmol) are stirred in dimethoxyethane (150 ml; dried over a molecular sieve) at a bath temperature of 80° C. for 24 hours while gassing with argon. After cooling to room temperature, dimethylformamide (300 ml), tetrakis-triphenylphosphine-palladium (1.35 g; 1.17 mmol), 5-(3-benzyloxy-5-ethoxy-4-iodo-benzyl)-pyrimidine-2,4-diamine (5.7 g; 12 mmol) and a 2 M aqueous potassium phosphate solution (60 ml) are added to the reaction mixture. The reaction mixture is stirred for approx. 15 hours at 77° C., cooled to room temperature and concentrated. The residue obtained is taken up in ethanol (100 ml), a 1 N aqueous NaOH solution (40 ml) is added and the mixture is stirred under reflux for 3 hours. After cooling, the ethanol is evaporated, water (50 ml) is added, the mixture is extracted with methylene chloride (200 ml+100 ml) and the extract is washed successively with water (50 ml) and a saturated aqueous sodium chloride solution, dried over magnesium sulphate, filtered with suction and concentrated. The residue is chromatographed over silica gel (600 g) with methylene chloride/methanol/NH4OH (19/1/0.05). 2.85 g (54%) 5-(4′-amino-2-benzyloxy-6-ethoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine are obtained as a beige powder.

reactant | bis(pinacolato)diboron | 19.6 mmol, 5.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 45 mmol, 4.41 g | C(C)(=O)[O-].[K+]
reactant | 5-(3-benzyloxy-5-ethoxy-4-iodo-benzyl)-pyrimidine-2,4-diamine | 12 mmol, 5.7 g | C(C1=CC=CC=C1)OC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1I)OCC | C20H21IN4O2
reactant | potassium phosphate | 2 M, 60 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | NaOH | 1 N, 40 ml | [OH-].[Na+]
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium(II) | 730 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4′-amino-2-benzyloxy-6-ethoxy-biphenyl-4-ylmethyl)-pyrimidine-2,4-diamine | 2.85 g, 54% | NC1=CC=C(C=C1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OCC1=CC=CC=C1 | C26H27N5O2
